US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-2-(2-methoxybenzyl)benzo[b]thiophene-3-sulfonamide was prepared by the method of Example 41 with 5-amino-4-bromo-3-methylisoxazole (1.0 mmoles, 0.18 g), NaH (2.5 mmoles, 100 mg), 2-(2-methoxybenzyl)-benzo[b]thiophene-3-sulfonyl chloride (1.4 mmoles, 0.49 g) and THF (7ml). Flash chromatography (50% ethyl acetate/hexanes) followed by recrystallization from chloroform and hexanes provided 0.30 g (61%) of a brown solid, m.p. 80°-84° C.

reactant | 5-amino-4-bromo-3-methylisoxazole | 1.0 mmoles, 0.18 g | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | NaH | 2.5 mmoles, 100 mg | [H-].[Na+]
reactant | 2-(2-methoxybenzyl)-benzo[b]thiophene-3-sulfonyl chloride | 1.4 mmoles, 0.49 g | COC1=C(CC2=C(C3=C(S2)C=CC=C3)S(=O)(=O)Cl)C=CC=C1 | C16H13ClO3S2
solvent | THF | 7ml | C1CCOC1 | C4H8O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-2-(2-methoxybenzyl)benzo[b]thiophene-3-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C=1C2=C(SC1CC1=C(C=CC=C1)OC)C=CC=C2)C | C20H17BrN2O4S2
